US04074048
4-Hydroxy-N-methyl-N-phenyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide
To a solution of 9.9g (0.03 mole) of 2- (N-methyl-N-phenylcarbamoyl)!saccharin in 125ml of dimethylformamide at 35° C is added all at once 4.9g (0.09 mole) of sodium methoxide. A considerable amount of heat is evolved and the mixture turns purple in color. Stirring is continued for one hour and it is poured into ice-water containing excess hydrochloric acid to cause precipitation of 5.5g of a tan solid, mp. 138°-144° C. This is dissolved in dichloromethane and extracted with aqueous sodium carbonate solution. Neutralization of the alkaline layer gives a precipitate which is collected and recrystallized from methanol to give 4.0g of product, mp. 148°-152° C dec.

reactant | saccharin | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | sodium methoxide | 0.09 mole, 4.9g | C[O-].[Na+]
reactant | dimethylformamide | 125ml | CN(C=O)C | C3H7NO
product | 4-Hydroxy-N-methyl-N-phenyl-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 4.0g | OC1=C(NS(C2=C1C=CC=C2)(=O)=O)C(=O)N(C2=CC=CC=C2)C | C16H14N2O4S
